US05861405
8-(trans-2-tert-Butyloxycarbonylvinyl)-1,3,7-trimethylxanthine (76 mg, 238 μmol) was dissolved in 3 ml TFA and stirred for 1 h. After evaporation, the residue was triturated with ether to provide the pure product 8-(trans-2-Carboxyvinyl)-1,3,7-trimethylxanthine (55 mg, 88% yield). mp: 278d °C. 1H NMR DMSO-d6 : d 3.27 (s, 3H, NCH3), 3.44 (s, 3H, NCH3), 4.02 (s, 3H N7CH3), 6.78 (d, 1H, J=15.4 Hz), 7.55 (d, 1H, J=15.4 Hz), 8.4 (br s, 1H, COOH). MS (CI NH3) m/e 265 (MH+). Alternatively, compound 8-(trans-2-Carboxyvinyl)-1,3,7-trimethylxanthine was prepared from 8-(trans-2-tert-Butyloxycarbonylvinyl)-1,3,7-trimethylxanthine in DMF/water (1:1) solution by saponification with sodium hydroxide in 49% yield.

reactant | 8-(trans-2-tert-Butyloxycarbonylvinyl)-1,3,7-trimethylxanthine | C(C)(C)(C)OC(=O)/C=C/C1=NC=2N(C(N(C(C2N1C)=O)C)=O)C | C15H20N4O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF water | CN(C)C=O.O
product | 8-(trans-2-Carboxyvinyl)-1,3,7-trimethylxanthine | 49% yield | C(=O)(O)/C=C/C1=NC=2N(C(N(C(C2N1C)=O)C)=O)C | C11H12N4O4
